US08071591B2
To a solution of n-BuLi (1.54 M in Hexane, 145 mL. 224 mmol) in Et2O (600 ml) was added dropwise 3-Bromopyridine (22.0 mL, 224 mmol) at −75˜−68° C., and stirred for 20 min. To a reaction mixture was added dropwise 3-ethoxy-2-cyclohexenone (25.0 mL, 187 mmol) at −75˜−69° C., and stirred at room temperature for 1 h. The reaction mixture was acidified with 2M HCl (300 mL), and aqueous layer was washed with AcOEt. The aqueous layer was basified with 1M NaOH aq., and then extracted with CH2Cl2. The organic layer was washed with brine, and dried over anhyd Na2SO4 followed by the removal of solvent. The crude product was purified by column chromatography (Hexane/EtOAc=1/2) to yield 3-(3-pyridyl)-2-cyclohexen-1-one (21.5 g, 66%) as yellow powder.

reactant | n-BuLi | 224 mmol, 1.54 M, 145 mL | [Li]CCCC
reactant | 3-Bromopyridine | 224 mmol, 22.0 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-ethoxy-2-cyclohexenone | 187 mmol, 25.0 mL | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | HCl | 2M, 300 mL | Cl | ClH
solvent | Et2O | 600 ml | CCOCC | C4H10O
product | 3-(3-pyridyl)-2-cyclohexen-1-one | 21.5 g, 66% | N1=CC(=CC=C1)C1=CC(CCC1)=O | C11H11NO
